US06903117B2
5,6-Dichloroindole-2-carboxaldehyde.
A solution of 5,6-dichloroindole-2-methanol (43 g, 199 mmol) in diethyl ether (1.3 l) was treated with activated MnO2 (64 g, 730 mmol) and stirred for 15 hours at room temperature. Additional MnO2 (20 g, 230 mmol) was added and stirring continued for 5 h. The suspension was filtered on a Celite pad, then the pad was washed with diethyl ether and warm acetone. The pooled organic phases were concentrated to give 38.5 g of the title compound (180 mmol, yield 90.4%) that was used as such in the next step, m.p.=207-208° C.

reactant | 5,6-dichloroindole-2-methanol | 199 mmol, 43 g | ClC=1C=C2C=C(NC2=CC1Cl)CO | C9H7Cl2NO
solvent | diethyl ether | 1.3 l | C(C)OCC | C4H10O
catalyst | MnO2 | 730 mmol, 64 g | O=[Mn]=O
catalyst | MnO2 | 230 mmol, 20 g | O=[Mn]=O
product | 5,6-Dichloroindole-2-carboxaldehyde | 180 mmol, 38.5 g, yield 90.4% | ClC=1C=C2C=C(NC2=CC1Cl)C=O | C9H5Cl2NO
